US04288624
4-Benzylthio-1-dimethylamino-2-(3-trifluoromethylphenyl)-1-butene-3-one
A solution of 7.8 g. of diisopropylamine in 200 ml. of dry tetrahydrofuran was cooled under nitrogen. To the cold solution was added 32 ml. of 2.5-molar n-butyllithium solution in hexane, and the mixture was chilled to -70° and stirred for 30 minutes. To the mixture was added 10 g. of 1-dimethylamino-2-(3-trifluoromethylphenyl)-1-butene-3-one and 50 ml. of hexamethylphosphoramide in 25 ml. of tetrahydrofuran at a rate such that the temperature remained below -65°. The mixture was stirred for 30 minutes after the addition was complete, and then 9.7 g. of benzyl disulfide in 50 ml. of tetrahydrofuran was added while the reaction was held at constant temperature. When the addition was complete, the mixture was stirred for 15 minutes more at constant temperature, and was then allowed to warm to 8° with constant stirring over a period of about one hour. The reaction mixture was then diluted with 800 ml. diethyl ether and then washed successively with aqueous sodium hydroxide, hydrochloric acid and sodium chloride solution. The organic layer was then dried over magnesium sulfate, and was chromatographed on a silica gel column with 5% and then with 10% ethyl acetate in dichloromethane. The product-containing fractions were combined and evaporated to obtain 1.9 g. of the desired product which was identified by nmr (CDCl3): δ7.75 (s, 1H); 7.3-7.6 (m, 9H aromatic); 3.9 (s, 2H); 3.15 (s, 2H); 2.8 (s, 6H).

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5-molar | C(CCC)[Li]
reactant | 1-dimethylamino-2-(3-trifluoromethylphenyl)-1-butene-3-one | CN(C=C(C(C)=O)C1=CC(=CC=C1)C(F)(F)F)C | C13H14F3NO
reactant | benzyl disulfide | C(C1=CC=CC=C1)SSCC1=CC=CC=C1 | C14H14S2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-Benzylthio-1-dimethylamino-2-(3-trifluoromethylphenyl)-1-butene-3-one | C(C1=CC=CC=C1)SCC(C(=CN(C)C)C1=CC(=CC=C1)C(F)(F)F)=O | C20H20F3NOS
